US05808062
4-Hydroxy-6-phenyl-3-[(2-propylphenyl)thio]-2H-pyran-2-one:
The title compound was prepared by Method A using 1-phenyl-1-(trimethylsilyloxy)ethylene (0.990 mL, 4.83 mmol) and diethyl ester of [(2-propylphenyl)thio]propanedioic acid (1.00 g, 3.22 mmol). m.p. 158°-160° C.; 1H NMR (400 MHz, DMSO-d6) δ 0.972 (t, 3H), 1.64 (m, 2H), 2.71 (t, 2H), 6.87 (s, 1H), 6.92 (m, 1H), 7.06 (m, 2H), 7.16 (m, 1H), 7.55 (m, 3H), 7.85 (m, 2H).

reactant | 1-phenyl-1-(trimethylsilyloxy)ethylene | 4.83 mmol, 0.990 mL | C1(=CC=CC=C1)C(=C)O[Si](C)(C)C | C11H16OSi
reactant | [(2-propylphenyl)thio]propanedioic acid | 3.22 mmol, 1.00 g | C(CC)C1=C(C=CC=C1)SC(C(=O)O)C(=O)O | C12H14O4S
product | 4-Hydroxy-6-phenyl-3-[(2-propylphenyl)thio]-2H-pyran-2-one | OC1=C(C(OC(=C1)C1=CC=CC=C1)=O)SC1=C(C=CC=C1)CCC | C20H18O3S
